Name:  ___                         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
persistant rectal bleeding following ultrasound guided 
transrectal needle prostate biopsy
 
Major Surgical or Invasive Procedure:
transrectal ultrasound-guided prostate needle biopsy 
 
History of Present Illness:
___ is a ___ y/o male with a history of prostatic atypia 
detected by biopsy ___.  A repeat biopsy on 
___ failed to reveal evidence for malignancy or 
premalignancy.  His last PSA value ___
was 4.4 has remained stable with prior values.  During a recent 
Urologic consult with Dr. ___ reports a new symptom of 
urgency of urination to the
point of occasional urgency incontinence, which is usually 
precipitated by morning caffeine. Otherwise, there is 
rarenocturia, dysuria, and there is no gross hematuria.  He has 
no history of intermittency, hesitancy, or 
urinary tract infection.  Other review of systems are negative.

 
Past Medical History:
PMH: 
-HTN
-Seasonal allergies
-Atrial fibrillation (coumadin currently held)

 
Social History:
___
Family History:
FH: His family history is noncontributory.  Both parents are 
dead
with no known history of atrial fibrillation.  He had a brother
who died of an aneurysm.

 
Pertinent Results:
___ 05:45PM BLOOD ___ PTT-28.0 ___
___ 05:45PM BLOOD Hct-36.6*
___ 08:31PM BLOOD Hct-33.2*
___ 12:36AM BLOOD Hct-32.0*
___ 03:52AM BLOOD Hct-31.9*
___ 10:00AM BLOOD Hct-34.6*
 
Brief Hospital Course:
Mr. ___ was admitted for vital sign and hematocrit monitoring 
following a transrectal ultrasound guided prostate needle 
biopsy. Following biopsy he was noted to have persistent rectal 
bleeding in the office, manual tamponade was attempted in the 
office setting but unsuccessful.  He was admitted and placed on 
bed rest.  His hematocrit was evaluted every 6 hours and a 
showed progressive decline from 36.6 prior to procedure to 31.9 
at approximately 4 am of the morning following the procedure.  
With a continued decrease in hematocrit a 16  ___ 3 way foley 
was inserted into the rectum to tamponade the bleeding area,  
the ballon was expanded and left in place for 45 minutes and the 
patient was placed in ___ position where he remained 
until morning. In the morning after the procedure the patient no 
longer had active rectal bleeding, his first stool produced a 
large blood clot, the next stool was normal with out blood 
streaks although a few small drops of blood were noted after 
passage of the stool. His hematocrit improved to 34.6 at 10 am.  
 The patient was monitored for  three additional hours in which 
time he consumed a regular breakfast and was ambulating 
independently without difficulty, no further rectal bleeding was 
noted.  He was discharged in stable condition.  He was advised 
to not restart his daily coumadin for one week and to avoid 
aspirin and all NSAIDS until he spoke with his PCP.  His Primary 
Care Physician ___ was contacted by phone and informed of 
our instructions to the patient to hold coumadin therapy, she 
was in agreement with the plan.  The patient was instructed to 
contact his PCP upon discharge to discuss the re-initiation of 
his coumadin. The patient will follow up with Dr. ___ to 
discuss biopsy results in one week.

 
Medications on Admission:
Meds:
1. Hydrochlorothiazide 12.5 mg PO daily
2. Metoprolol sustained release 25 mg PO daily
3. Montelukast 10 mg PO daily
4. Viagra prn
5. Tamsulosin 0.4 mg PO daily

 
Discharge Medications:
1. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
One (1) Puff Inhalation TID (3 times a day) as needed for SOB.  
2. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
3. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
4. Montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Prostatic atypia, rule out prostate cancer.

 
Discharge Condition:
stable

 
Discharge Instructions:
- please do not restart or take blood thinning agents (ie 
coumadin, Aspirin, or NSAIDS such as motrin or aleve )for one 
week to ensure no recurrence of rectal bleeding.  

-complete your original antibiotic prescription upon discharge

- you may take Tylenol for pain relief (not to exceed 4 gms 
daily)

-You should avoid lifting and straining, which also means that 
you should avoid constipation. This can be done by any of the 
following ways: 1) modify your diet, 2)  use gentle laxatives 
such as Milk of Magnesia which can be purchased at your local 
drug store.

-No heavy lifting for 4 weeks (no more than 10 pounds)

-___ medical attention for fevers (temp>101.5), worsening pain, 
or excessive bleeding from rectum, chest pain or shortness of 
breath.

-Contact Dr. ___ office in one week for the results of your 
biopsy and to schedule a follow up appointment

 
Followup Instructions:
___